US06916819B2
6. Preparation of 1-(3-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-3H-imidazo[4,5-c]pyridin-6-yl)ethanone
A mixture of 1-(4-amino-5-ethylamino-pyridin-2-yl)-ethanone (54 mg, 0.3 mmol), (2-thiazol-2-yl-imidazol-1-yl)-acetic acid (61 mg, 0.3 mmol), EDCI (60 mg; 0.3 mmol), and pyridine (2 mL) is stirred at room temperature for 72 hr and then poured into water. The aqueous layer is extracted with ethyl acetate and the combined organic layers are dried over Na2SO4. Solvent is evaporated in vacuo and the residue is taken up in acetic acid (5 mL). The mixture is heated to reflux for 16 hr and saturated NaHCO3 solution is added to neutralize the reaction. The aqueous solution is extracted with ethyl acetate and the combined organic layers are dried over Na2SO4. Solvent is removed in vacuo and purification by preparative TLC provides the product as white solid. 1H NMR (CDCl3) δ 8.79 (d, 2H), 8.47 (d, 1H), 7.83 (d, 1H), 7.40 (d, 1H), 7.19 (d, 1H), 7.15 (d, 1H), 6.39 (s, 2H), 4.02 (q, 2H), 2.77 (s, 3H), 1.86 (t, 3H). LRMS 353.2 (MH+).

reactant | 1-(4-amino-5-ethylamino-pyridin-2-yl)-ethanone | 0.3 mmol, 54 mg | NC1=CC(=NC=C1NCC)C(C)=O | C9H13N3O
reactant | (2-thiazol-2-yl-imidazol-1-yl)-acetic acid | 0.3 mmol, 61 mg | S1C(=NC=C1)C=1N(C=CN1)CC(=O)O | C8H7N3O2S
reactant | EDCI | 0.3 mmol, 60 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 1-(3-ethyl-2-{[2-(1,3-thiazol-2-yl)-1H-imidazol-1-yl]methyl}-3H-imidazo[4,5-c]pyridin-6-yl)ethanone | C(C)N1C(=NC2=C1C=NC(=C2)C(C)=O)CN2C(=NC=C2)C=2SC=CN2 | C17H16N6OS
